US09169254B2
A mixture of 2-cyclohexyl-8-ethenesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (100 mg, 0.307 mmol), trifluoro-methanesulfonic acid 2-methyl-1H-indol-4-yl ester (129 mg, 0.462 mmol), tetrakistriphenylphosphine palladium(0) (35 mg, 30.2 μmol) and triethylamine (130 μL, 0.933 mmol) in 1,4-dioxane (1.5 ml) was heated with stirring at 100° C. for 18 hours. The reaction mixture was cooled, and then quenched with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2-cyclohexyl-8-[(E)-2-(2-methyl-1H-indol-4-yl)-ethenesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (19.3 mg, 14%).

reactant | 2-cyclohexyl-8-ethenesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.307 mmol, 100 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C=C | C15H23N3O3S
reactant | trifluoro-methanesulfonic acid 2-methyl-1H-indol-4-yl ester | 0.462 mmol, 129 mg | CC=1NC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C10H8F3NO3S
reactant | triethylamine | 0.933 mmol, 130 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 2-cyclohexyl-8-[(E)-2-(2-methyl-1H-indol-4-yl)-ethenesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 19.3 mg, 14% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C2=C1C=C(NC1=CC=C2)C | C24H30N4O3S
